US09315521B2
To a solution of (3,5-diethylpyridin-4-yl)methanol (1.50 g, 9.07 mmol) in anhydrous chloroform (40 mL) at 0° C. was added dropwise tribromophosphane (2.48 g, 0.861 mL, 9.16 mmol). The reaction mixture was allowed to stir overnight at room temperature. The solvent was evaporated to provide crude 4-(bromomethyl)-3,5-diethylpyridine, which was used for the next step without any further purification; M+229.2.

reactant | (3,5-diethylpyridin-4-yl)methanol | 9.07 mmol, 1.50 g | C(C)C=1C=NC=C(C1CO)CC | C10H15NO
reactant | tribromophosphane | 9.16 mmol, 0.861 mL, 2.48 g | BrP(Br)Br | Br3P
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(bromomethyl)-3,5-diethylpyridine | BrCC1=C(C=NC=C1CC)CC | C10H14BrN
